US07964608B2
1-Cyclopentyl-3-(3-fluoro-4-methyl-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (28 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 1-fluoro-5-isocyanato-2-methyl-benzene (0.5 mmol) following general procedure C. LCMS: m/z 420 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 1-fluoro-5-isocyanato-2-methyl-benzene | 0.5 mmol | FC1=C(C=CC(=C1)N=C=O)C | C8H6FNO
product | 1-Cyclopentyl-3-(3-fluoro-4-methyl-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 28 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=CC(=C(C=C2)C)F)=O | C24H22FN3O3
